US06867211B2
a) Benzyl 1-(pyridine-4-carbonyl)pyrrolidine-2-carboxylate
L-Proline benzyl ester hydrochloride (2.42 g, 0.01 mol) dissolved in pyridine (80 ml) is treated in portions at 3° C. (ice-bath cooling) with isonicotinoyl chloride hydrochloride (1.78 g, 0.01 mol), the IT increasing to 10° C. After removing the ice bath, the mixture is stirred for 5 h, the batch turning greenish.

reactant | L-Proline benzyl ester hydrochloride | 0.01 mol, 2.42 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | isonicotinoyl chloride hydrochloride | 0.01 mol, 1.78 g | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | Benzyl 1-(pyridine-4-carbonyl)pyrrolidine-2-carboxylate | N1=CC=C(C=C1)C(=O)N1C(CCC1)C(=O)OCC1=CC=CC=C1 | C18H18N2O3
